US07153857B2
To a stirred solution of tert-butyl 4-(5-ethynylpyridin-2-yl)piperazine-1-carboxylate (509 mg, 1.77 mmol), 2-Bromo-5-trifluoromethylpyridine (400 mg, 1.77 mmol), triethylamine (0.74 mL, 5.31 mmol), and cuprous iodide (135 mg, 0.71 mmol) in DMA (20 mL) at 25° C. was added tetrakistriphenylphosphine palladium (0) (102 mg, 5 mol %). The reaction was then stirred for 1 hour. Volatiles were removed in vacuo, and the residue was azeotroped with toluene (2×10 mL). The residue was then dissolved in CH2Cl2 (10 mL) and washed with water (10 mL). The layers were then separated and the aqueous phase extracted with CH2Cl2 (2×100 mL). The combined organic extracts were then dried, (MgSO4), filtered and concentrated in vacuo. The residue was then purified by flash chromatography (silica gel, 25% EtOAc in hexanes) to give tert-butyl 4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazine-1-carboxylate as a yellow solid (729 mg, 1.68 mmol, 95%).

reactant | tert-butyl 4-(5-ethynylpyridin-2-yl)piperazine-1-carboxylate | 1.77 mmol, 509 mg | C(#C)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21N3O2
reactant | 2-Bromo-5-trifluoromethylpyridine | 1.77 mmol, 400 mg | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | triethylamine | 5.31 mmol, 0.74 mL | C(C)N(CC)CC | C6H15N
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
product | tert-butyl 4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazine-1-carboxylate | 1.68 mmol, 729 mg, 95% | FC(C=1C=CC(=NC1)C#CC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C22H23F3N4O2
